US06087380
e) 1-Methyl-2-[(4-amidinophenyl)oxymethyl]-benzimidazol-5-yl-sulphonic acid-N-methyl-N-(1-methylpiperidin-4-yl)-amide-hydrochloride
Prepared analogously to Example 25d from 400 mg of 1-methyl-2-[(4-cyanophenyl)oxymethyl]-benzimidazol-5-yl-sulphonic acid-N-methyl-N-(1-methylpiperidin-4-yl)-amide with ethanolic hydrochloric acid and ammonium carbonate. Yield: 370 mg (83% of theory), C23H30N6O3S (470.6) ##EQU13##

reactant | 1-methyl-2-[(4-cyanophenyl)oxymethyl]-benzimidazol-5-yl-sulphonic acid-N-methyl-N-(1-methylpiperidin-4-yl)-amide | 400 mg | CN(S(=O)(=O)C1=CC2=C(N(C(=N2)COC2=CC=C(C=C2)C#N)C)C=C1)C1CCN(CC1)C | C23H27N5O3S
reactant | hydrochloric acid | Cl | ClH
reactant | ammonium carbonate | C([O-])([O-])=O.[NH4+].[NH4+]
product | 1-Methyl-2-[(4-amidinophenyl)oxymethyl]-benzimidazol-5-yl-sulphonic acid-N-methyl-N-(1-methylpiperidin-4-yl)-amide-hydrochloride | Cl.CN(S(=O)(=O)C1=CC2=C(N(C(=N2)COC2=CC=C(C=C2)C(N)=N)C)C=C1)C1CCN(CC1)C | InChI=1S/C23H30N6O3S.ClH/c1-27-12-10-17(11-13-27)29(3)33(30,31)19-8-9-21-20(14-19)26-22(28(21)2)15-32-18-6-4-16(5-7-18)23(24)25;/h4-9,14,17H,10-13,15H2,1-3H3,(H3,24,25);1H
